2123-11-12 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  ventricular arrhythmia
   24 Hour Events:
 ARTERIAL LINE - START [**2123-11-11**] 01:24 PM
   Comfortable o/n, no pain, pt expressing desire to have tube pulled.
   -pericardial drain with 250 ccs thus far, 50 since 2AM
   Allergies:
   Penicillins
   asthma attack i
   Amiodarone
   Unknown;
   Quinidine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2123-11-11**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-12**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 87 (57 - 87) bpm
   BP: 117/73(89) {85/52(62) - 148/78(98)} mmHg
   RR: 26 (7 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.4 kg (admission): 65 kg
             Total In:
                                                                  4,228 mL
                                                                    343 mL
   PO:
             TF:
   IVF:
                                                                  4,168 mL
                                                                    283 mL
   Blood products:
   Total out:
                                                                  3,103 mL
                                                                    345 mL
   Urine:
                                                                  1,025 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
                                                                    178 mL
                                                                     25 mL
   Balance:
                                                                  1,125 mL
                                                                     -2 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 17 cmH2O
   Plateau: 11 cmH2O
   SpO2: 100%
   ABG: 7.42/35/132/25/0
   Ve: 9 L/min
   PaO2 / FiO2: 330
   Physical Examination
   GENERAL:  intubated, sedated, responsive
   HEENT: MMM
   CARDIAC: RRR, no MRG  pericardial drain in place draining sanginous
   fluid
   LUNGS: CTAB, course BS
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  Left groin site has no
   hematoma, bruit or oozing.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   221 K/uL
   10.7 g/dL
   112 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.5 mEq/L
   12 mg/dL
   108 mEq/L
   141 mEq/L
   30.3 %
   10.7 K/uL
        [image002.jpg]
                            [**2123-11-11**]  02:21 PM
                            [**2123-11-11**]  02:25 PM
                            [**2123-11-11**]  05:07 PM
                            [**2123-11-11**]  10:05 PM
                            [**2123-11-12**]  04:34 AM
                            [**2123-11-12**]  05:27 AM
   WBC
   12.2
   10.7
   Hct
   33.1
   32.5
   30.3
   Plt
   238
   221
   Cr
   0.8
   0.8
   TCO2
   26
   22
   23
   Glucose
   82
   112
   Other labs: PT / PTT / INR:12.2/24.8/1.0, Ca++:8.0 mg/dL, Mg++:2.2
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   64 year old female with history of mixed cardiomyopathy, VF s/p ICD
   with ICD shocks, no new CAD, and inducible VT on [**Hospital **] transferred to the
   CCU following epicardial VT mapping.
   .
   #.  RHYTHM:  The patient has a history of polymorphic, monomorphic VT
   as well as VF.  She has undergone now endocardial and epicardial
   mapping with ablation.  Given the epicardial approach, she has a
   pericardial drain in place.
   - TTE this AM, eval for resolution of effusion
   - Continue propafenone, CR not on formulary, will require TID dosing
   - ICD in place
   - Monitor on telemetry
   .
   #. PUMP:  The patient has a history of a mixed picture of
   cardiomyopathy with an EF documented at 40% in [**Month (only) 349**].  Should repeat
   TTE while inpatient to document level of pericardial fluid following
   procedure, however no evidence of tamponade physiology o/n.  Drain in
   place.
   - Continue to monitor drain output, will dc if  fluid output continues
   to decline and there is no evidence of effusion on ECHO.
   - Monitor I/0s and daily weights
   .
   # CORONARIES:  This admission coronary catheterization shows patency of
   RCA DES.  No other occlusive coronary artery diease.
   - Continue ASA and plavix
   - Continue statin
   .
   # Hypertension:  Monitor blood pressures closely given risk of
   tamponade.  Given borderline blood pressures, will hold home regimen of
   diovan.
   .
   # Respiratory:  The patient was electively intubated for the procedure
   and general anesthesia.  Will montior respiratory status and plan for
   extubation after TTE today.
   .
   # Transgender operation:  Hold premarin used for hormone replacement
   while the patient is in the CCU given increased risk of coronary artery
   disease with hormone replacement therapy.
   .
   # Depression:  Continue lexapro.  On chronic [**Last Name (LF) 9544**], [**First Name3 (LF) 124**] use
   propofol for sedation and restart oxazepam when off sedation.
   .
   # GERD:  Continue zantac
   .
   # Chronic sinus problems:  Continue flonase when extubated.
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  n/a
   Lines:
   Arterial Line - [**2123-11-11**] 01:24 PM
   22 Gauge - [**2123-11-11**] 01:25 PM
   20 Gauge - [**2123-11-11**] 01:25 PM
   16 Gauge - [**2123-11-11**] 01:26 PM
   Prophylaxis:
   DVT: heparin subcu
   Stress ulcer: ranitidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: with pt and brother, who is HCP
   [**Name (NI) 156**] status: full
   Disposition: CCU while drain in place
   ------ Protected Section ------
   EPS Fellow addendum
   Pt seen and examined, agree with above.
   Pt had approx 150cc bloody drainage total since coming to ccu yesterday
   at 1:30 pm. Approx 50cc passive drainage 2am-10am. Passed her SBT
   today, getting echo.
   Short bursts of NSVT this morning but quiet since getting Rhythmol
   dose.
   VSS
   Opens eyes to voice, follows simple commands.
   RRR no rub
   Labs reviewed
   A/P
   64 year old woman with VT and bleeding during attempt at epicardial
   ablation.
   1.       Pericardial drain: Still with some drainage. Will leave in
   overnight, repeat echo today
   2.       VT
 continue rhythmol
   3.       Respiratory: If effusion not enlarging, will wake patient up
   later today and likely extubate
   4.       Rest of plan per housestaff
   5.
   6.       ------ Protected Section Addendum Entered By:[**Name6 (MD) 5148**]
   [**Name (NI) 4031**], MD  on:[**2123-11-12**] 11:44 ------
   7.
   8.
   9.       Electronically signed by [**Name6 (MD) 5148**] [**Name8 (MD) 4031**], MD
   [**2123-11-12**] 11:44
   10.
   11.    Pt seen discussed, examined with Dr. [**Last Name (STitle) 4031**] agree with
   assessment and plan to extubate tonite and hopefully remove drain in
   am. Minimal fuid anteriorly by echo. Short runs of nsvt., now quiet on
   rhythmol.
   12.    ------ Protected Section Addendum Entered By:[**Name (NI) 362**] [**Name8 (MD) 2830**], MD
   on:[**2123-11-12**] 04:58 PM ------
   13.
   14.
   15.    Electronically signed by [**First Name8 (NamePattern2) 362**] [**Name8 (MD) 2830**], MD  [**2123-11-12**] 04:58 PM
   16.
   17.

2123-11-13 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2123-11-12**] 12:00 PM
 INVASIVE VENTILATION - STOP [**2123-11-12**] 03:47 PM
   [**11-12**]:
   -extubated
   -more frequent runs of NSVT (~6-10 beats) as evening went on.
   asymptomatic. mg repleted. evening lytes rechecked. repleted K, phos.
   ca corrected for albumin is wnl.
   -this AM, Hct down 5 points, but asymptomatic, vitals stable, drain not
   clogged, no new drainage, getting echo this am, so did not repeat Hct
   yet.
   -A fib with aberrancy/slow VT this morning, spontaneously converted to
   sinus twice, then required Metoprolol 5mg IV x1
   Allergies:
   Penicillins
   asthma attack i
   Amiodarone
   Unknown;
   Quinidine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2123-11-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2123-11-12**] 11:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-13**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 79 (74 - 113) bpm
   BP: 97/53(67) {87/49(64) - 145/72(98)} mmHg
   RR: 19 (11 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.4 kg (admission): 65 kg
   Height: 68 Inch
                  Total In:
                                                                  1,263 mL
                                                                    120 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    783 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    600 mL
   Urine:
                                                                  1,415 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
                                                                     65 mL
   Balance:
                                                                   -217 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 387 (387 - 387) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 11.2 L/min
   Physical Examination
   GENERAL:  Alert, interactive, NAD
   CARDIAC: RRR, no MRG  pericardial drain in place draining sanginous
   fluid
   LUNGS: CTAB, course BS
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  Left groin site has no
   hematoma, bruit or oozing.
   Labs / Radiology
   191 K/uL
   8.9 g/dL
   117 mg/dL
   0.9 mg/dL
   27 mEq/L
   4.0 mEq/L
   9 mg/dL
   105 mEq/L
   136 mEq/L
   25.6 %
   8.3 K/uL
        [image002.jpg]
                            [**2123-11-11**]  02:21 PM
                            [**2123-11-11**]  02:25 PM
                            [**2123-11-11**]  05:07 PM
                            [**2123-11-11**]  10:05 PM
                            [**2123-11-12**]  04:34 AM
                            [**2123-11-12**]  05:27 AM
                            [**2123-11-12**]  05:35 PM
                            [**2123-11-13**]  05:24 AM
   WBC
   12.2
   10.7
   8.3
   Hct
   33.1
   32.5
   30.3
   25.6
   Plt
   238
   221
   191
   Cr
   0.8
   0.8
   0.8
   0.9
   TCO2
   26
   22
   23
   Glucose
   82
   112
   117
   Other labs: PT / PTT / INR:11.9/30.3/1.0, Albumin:3.1 g/dL, Ca++:7.6
   mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Imaging: TTE [**11-12**]
   The mitral valve leaflets are mildly thickened. The mitral valve
   leaflets are myxomatous. There is a small anterior pericardial
   effusion. The effusion is echo dense, consistent with blood,
   inflammation or other cellular elements. There are no echocardiographic
   signs of tamponade.  TR gradient 16mmHg.
   CXR [**11-13**] pending
   Assessment and Plan
 64 year old female with history of mixed cardiomyopathy, VF s/p ICD
   with ICD shocks, no new CAD, and inducible VT on [**Hospital **] transferred to the
   CCU following epicardial VT mapping.
   .
   #  s/p Pericardial Bleed:  Drain in place with minimal drainage over
   the past 24 hours, but with 5 point Hct drop overnight, no clinical
   evidence of bleed on exam.
   - f/u repeat Hct, and check PM Hct
   - focused TTE this morning to monitor stability of pericardial bleed
   - If TTE stable, pull pericardial drain today
   .
   #.  RHYTHM:  The patient has a history of polymorphic, monomorphic VT
   as well as VF.  She has undergone now endocardial and epicardial
   mapping with ablation.  Given the epicardial approach, she has a
   pericardial drain in place.  Increasing frequency of A fib with
   aberrancy/slow VTs.
   - Discontinue Rhythmol (Propafenone) per EP recs
   - Initiate Dronedarone 400mg [**Hospital1 **] Monday, following washout of
   Propafenone
   - Initiate Metoprolol 25mg po bid for suppression of A fib with
   aberrancy
   - Initiate Digoxin 0.25mg this morning, 0.125mg this PM, and 0.125mg
   daily starting tomorrow
   - ICD in place
   .
   #. PUMP:  The patient has a history of a mixed picture of
   cardiomyopathy with an EF documented at 40% in [**Month (only) 349**].  Should repeat
   TTE while inpatient to document level of pericardial fluid following
   procedure, however no evidence of tamponade physiology o/n.  Drain in
   place.
   - Monitor I/0s and daily weights
   .
   # CORONARIES:  This admission coronary catheterization shows patency of
   RCA DES.  No other occlusive coronary artery diease.
   - Continue ASA Plavix, statin
   .
   # Hypertension:  Monitor blood pressures closely given risk of
   tamponade.  Given borderline blood pressures, will hold home regimen of
   diovan.
   .
   # Respiratory:  The patient was electively intubated for the procedure
   and general anesthesia.  Extubated [**11-13**], currently stable.
   .
   # Transgender operation:  Hold premarin used for hormone replacement
   while the patient is in the CCU given increased risk of coronary artery
   disease with hormone replacement therapy.  Will discuss risks/benefits
   of starting Premarin prior to re-initiating given cardiac risks.
   .
   # Depression:  Continue lexapro.  On chronic [**Last Name (LF) 9544**], [**First Name3 (LF) 124**] use
   propofol for sedation and restart oxazepam when off sedation.
   .
   # GERD:  Continue zantac
   .
   # Chronic sinus problems:  [**Name2 (NI) 9579**] home flonase now that pt is
   extubated.
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:  n/a
   Lines:
   Arterial Line - [**2123-11-11**] 01:24 PM
   22 Gauge - [**2123-11-11**] 01:25 PM
   20 Gauge - [**2123-11-11**] 01:25 PM
   16 Gauge - [**2123-11-11**] 01:26 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: ranitidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: with pt and brother, who is HCP
   [**Name (NI) 156**] status: full
   Disposition: CCU while drain in place

2123-11-14 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2123-11-14**] 03:00 AM
   A fib with RVR [**11-14**]. Pt asymptomatic. VSS.
   [**11-13**]
   -In and out of what looked like slow VT, EP said a fib with aberrancy,
   given Metoprolol 5mg IV. Back in sinus.
   -focused TTE did not show recurrence of pericardial effusion.
   -Pericardial drain pulled.  Scheduled for full TTE Mon to evaluate EF,
   as focused TTE seemed to show lower EF than most recent echo.
   -Pt ok with not taking Estrogen for a while in-house (skips weeks at a
   time at home)
   -Propofenone d/c'ed. Dronedarone 400mg [**Hospital1 **] to start Mon after
   Propofenone washes out.
   -Started on Metoprolol 25mg po bid (PM dose not given, as below)
   -Digoxin 'load' and initiated daily dose 0.125mg daily.
   -Back in a fib with RVR at 110's-130's, given Metoprolol 5mg IV x2, Mg
   2mg IV, her evening Phos (not given when ordered), Metoprolol 12.5mg po
   (PM Metoprolol 25mg was not given for low BP and pt desire).  Patient
   went back into sinus with HR 50s-60s and BP high 80's-90's.
   Allergies:
   Penicillins
   asthma attack i
   Amiodarone
   Unknown;
   Quinidine
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2123-11-13**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2123-11-13**] 10:00 PM
   Metoprolol - [**2123-11-14**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2123-11-14**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 56 (56 - 154) bpm
   BP: 96/53(67) {85/48(50) - 116/71(77)} mmHg
   RR: 14 (10 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 66.4 kg (admission): 65 kg
   Height: 68 Inch
             Total In:
                                                                  1,070 mL
                                                                    150 mL
   PO:
                                                                  1,020 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                      0 mL
   Urine:
                                                                  1,610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -540 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   GENERAL:  intubated, sedated, responsive
   HEENT: MMM
   CARDIAC: RRR, no MRG  pericardial drain in place draining sanginous
   fluid
   LUNGS: CTAB, course BS
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.  Left groin site has no
   hematoma, bruit or oozing.
   Labs / Radiology
   214 K/uL
   9.1 g/dL
   101 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.3 mEq/L
   13 mg/dL
   107 mEq/L
   142 mEq/L
   25.3 %
   6.7 K/uL
        [image002.jpg]
                            [**2123-11-11**]  02:21 PM
                            [**2123-11-11**]  02:25 PM
                            [**2123-11-11**]  05:07 PM
                            [**2123-11-11**]  10:05 PM
                            [**2123-11-12**]  04:34 AM
                            [**2123-11-12**]  05:27 AM
                            [**2123-11-12**]  05:35 PM
                            [**2123-11-13**]  05:24 AM
                            [**2123-11-13**]  04:18 PM
                            [**2123-11-14**]  03:18 AM
   WBC
   12.2
   10.7
   8.3
   6.7
   Hct
   33.1
   32.5
   30.3
   25.6
   25.5
   25.3
   Plt
   238
   221
   191
   214
   Cr
   0.8
   0.8
   0.8
   0.9
   0.8
   0.8
   TCO2
   26
   22
   23
   Glucose
   82
   112
   117
   101
   Other labs: PT / PTT / INR:10.4/28.4/0.8, Albumin:3.1 g/dL, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 64 year old female with history of mixed cardiomyopathy, VF s/p ICD
   with ICD shocks, no new CAD, and inducible VT on [**Hospital **] transferred to the
   CCU following epicardial VT mapping.
   .
   #.  RHYTHM:  The patient has a history of polymorphic, monomorphic VT
   as well as VF.  She has undergone now endocardial and epicardial
   mapping with ablation.  Given the epicardial approach, she has a
   pericardial drain in place.
   - TTE this AM, eval for resolution of effusion
   - Continue propafenone, CR not on formulary, will require TID dosing
   - ICD in place
   - Monitor on telemetry
   .
   #. PUMP:  The patient has a history of a mixed picture of
   cardiomyopathy with an EF documented at 40% in [**Month (only) 349**].  Should repeat
   TTE while inpatient to document level of pericardial fluid following
   procedure, however no evidence of tamponade physiology o/n.  Drain in
   place.
   - Continue to monitor drain output, will dc if  fluid output continues
   to decline and there is no evidence of effusion on ECHO.
   - Monitor I/0s and daily weights
   .
   # CORONARIES:  This admission coronary catheterization shows patency of
   RCA DES.  No other occlusive coronary artery diease.
   - Continue ASA and plavix
   - Continue statin
   .
   # Hypertension:  Monitor blood pressures closely given risk of
   tamponade.  Given borderline blood pressures, will hold home regimen of
   diovan.
   .
   # Respiratory:  The patient was electively intubated for the procedure
   and general anesthesia.  Will montior respiratory status and plan for
   extubation after TTE today.
   .
   # Transgender operation:  Hold premarin used for hormone replacement
   while the patient is in the CCU given increased risk of coronary artery
   disease with hormone replacement therapy.
   .
   # Depression:  Continue lexapro.  On chronic [**Last Name (LF) 9544**], [**First Name3 (LF) 124**] use
   propofol for sedation and restart oxazepam when off sedation.
   .
   # GERD:  Continue zantac
   .
   # Chronic sinus problems:  Continue flonase when extubated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2123-11-11**] 01:24 PM
   16 Gauge - [**2123-11-11**] 01:26 PM
   20 Gauge - [**2123-11-13**] 08:00 AM
   Prophylaxis:
   DVT: heparin subcu
   Stress ulcer: ranitidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: with pt and brother, who is HCP
   [**Name (NI) 156**] status: full
   Disposition: Potentially call out to floor